US09421213B2
A solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (21.15 g, 53.11 mmol) in DME (212 ml) was added to a solution of (3R)-4-(2-chloro-6-(1-((R)—S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine (12.55 g, 37.93 mmol) in DME:water 4:1 (55 ml). 2M aqueous sodium carbonate solution (22.76 ml, 45.52 mmol) and dichlorobis(triphenylphosphine)palladium(II) (0.666 g, 0.95 mmol) were added. The resulting solution was stirred at 90° C. for 2 hours under nitrogen. The reaction mixture was diluted with EtOAc (400 ml), and washed with water (400 ml). The organic layer was dried over MgSO4, filtered and evaporated. The residue was dissolved in DCM (100 ml) and a portion was purified by flash chromatography on silica eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to afford (3R)-3-methyl-4-(6-(1-((R)—S-methylsulfonimidoyl)cyclopropyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrimidin-4-yl)morpholine (8.42 g, 39%); 1H NMR (400 MHz, CDCl3) 1.36 (3H, d), 1.52 (2H, dd), 1.80 (2H, dd), 2.24-2.46 (3H, s), 3.10 (3H, s), 3.36 (1H, td), 3.60 (1H, td), 3.74 (1H, dd), 3.84 (1H, d), 3.99-4.18 (2H, m), 4.47 (1H, s), 6.91 (1H, s), 7.23-7.3 (3H, m, obscured by CDCl3), 7.45 (1H, d), 7.81 (1H, d), 8.08 (3H, dd), 8.51 (1H, d); m/z: (ES+) MH+, 567.4. The rest of the material was evaporated and the residue was dissolved in DCM (500 ml) and concentrated in vacuo onto silica (100 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford (3R)-3-methyl-4-(6-(14(R)—S-methylsulfonimidoyl)cyclopropyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrimidin-4-yl)morpholine (4.00 g, 19%); 1H NMR (400 MHz, DMSO-d6) 1.19-1.31 (3H, m), 1.37-1.58 (3H, m), 1.75 (1H, ddd), 2.34 (3H, s), 3.04 (3H, d), 3.2-3.27 (1H, m), 3.46-3.54 (1H, m), 3.65 (1H, dd), 3.78 (1H, d), 3.82 (1H, s), 3.99 (1H, dd), 4.16 (1H, d), 4.54 (1H, s), 7.04 (1H, s), 7.42 (2H, d), 7.54 (1H, d), 8.01 (3H, dd), 8.10 (1H, d), 8.49 (1H, d); m/z: (ES+) MH+, 567.00.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 53.11 mmol, 21.15 g | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C | C20H23BN2O4S
reactant | (3R)-4-(2-chloro-6-(1-((R)—S-methylsulfonimidoyl)cyclopropyl)pyrimidin-4-yl)-3-methylmorpholine | 37.93 mmol, 12.55 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C1(CC1)[S@@](=O)(=N)C | C13H19ClN4O2S
reactant | sodium carbonate | 45.52 mmol, 2M, 22.76 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 212 ml | COCCOC | C4H10O2
solvent | DME water | 55 ml | COCCOC.O
solvent | EtOAc | 400 ml | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.95 mmol, 0.666 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (3R)-3-methyl-4-(6-(1-((R)—S-methylsulfonimidoyl)cyclopropyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrimidin-4-yl)morpholine | 8.42 g, 39% | C[C@H]1N(CCOC1)C1=NC(=NC(=C1)C1(CC1)[S@@](=O)(=N)C)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C27H30N6O4S2
